US07381719B2
6-(1,2,3,4-Tetrahydro-isoquinolin-6-yloxy)-nicotinamide
Combine 6-(5-carbamoyl-pyridin-2-yloxy)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (4.0 g, 10.83 mmol), CH2Cl2 (100 mL), and TFA (25 mL). Stir at room temperature for 12 hours and add 1.0 M K2CO3 and CHCl3 to the reaction. Separate the organic layer, wash with brine, and dry over Na2SO4. Concentrate under reduced pressure and add mixture to 2, 10 g SCX columns, wash with MeOH, and elute with 1.0 N NH3 in MeOH. Concentrate to afford 2.91 g, 10.8 mmol (71% yield) of the title compound as a white foam: 1H NMR (500 MHz, DMSO-d6): 2.9-3.1 (2H, m), 3,2-3.5 (2H, m), 4.2-4.4 (2H, m), 6.9-7.2 (3H, m), 7.2-7.4 (1H, m), 7.4-7.6 (1H, m), 7.9-8.1 (1H, m), 8.2-8.4 (1H, m), 8.5-8.7 (1H, m), 8.2-9.4 (2H, m); MS m/z 269 (M+1).

reactant | 6-(5-carbamoyl-pyridin-2-yloxy)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 10.83 mmol, 4.0 g | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)OC1=NC=C(C=C1)C(N)=O | C20H23N3O4
reactant | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
reactant | TFA | 25 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | K2CO3 | 1.0 M | C(=O)([O-])[O-].[K+].[K+]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 6-(1,2,3,4-Tetrahydro-isoquinolin-6-yloxy)-nicotinamide | 10.8 mmol, 2.91 g, 71% yield | C1NCCC2=CC(=CC=C12)OC1=NC=C(C(=O)N)C=C1 | C15H15N3O2
